US04312876
Cis-4-(4-fluorophenoxy)-3-phenylpiperidine hydrochloride
A mixture of 3.62 g of cis-1-ethoxycarbonyl-4-(4-fluorophenoxy)-3-phenylpiperidine, 52 ml of absolute ethanol and 28 ml of 20% sodium hydroxide solution is refluxed overnight under nitrogen. The ethanol is then removed in vacuo and the aqueous residue partitioned between water (50 ml) and ether (100 ml). The phases are separated and the aqueous phase extracted with 2×100 ml of ether. The combined ether extracts are washed with 100 ml of saturated sodium chloride solution and dried overnight over anhydrous sodium sulfate. Filtration and concentration in vacuo affords a cloudy yellow oil. The oil is dissolved in ether and treated dropwise with saturated ethereal hydrogen chloride. The solvent is removed in vacuo and the resulting foam triturated with ether to afford a nearly colorless solid. The solid is dissolved in 70 ml of boiling ethyl acetate, filtered hot, and the filtrate concentrated to a volume of 30 ml. The solution is scratched, seeded and allowed to stand overnight at room temperature. Filtration followed by washing with ethyl acetate and ether and drying in vacuo affords the product as a colorless crystalline solid, mp 150°-152° C.

reactant | cis-1-ethoxycarbonyl-4-(4-fluorophenoxy)-3-phenylpiperidine | 3.62 g | C(C)OC(=O)N1C[C@H]([C@H](CC1)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | C20H22FNO3
reactant | ethanol | 52 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 28 ml | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | Cis-4-(4-fluorophenoxy)-3-phenylpiperidine hydrochloride | Cl.FC1=CC=C(O[C@@H]2[C@@H](CNCC2)C2=CC=CC=C2)C=C1 | InChI=1S/C17H18FNO.ClH/c18-14-6-8-15(9-7-14)20-17-10-11-19-12-16(17)13-4-2-1-3-5-13;/h1-9,16-17,19H,10-12H2;1H/t16-,17-;/m0./s1
